### PR TITLE
fix: normalise `⊤` in `mvcgen'`

### PR DESCRIPTION
**Pull request by volodeyka**
This PR adds `⊤` normalisation in `mvcgen'`. 
During the run of `mvcgen`, in particular when introducing extra state arguments, `⊤` might turn into `⊤ s₁ s₂ ⋯ sₙ`. 
I am adding a procedure which constructs the proof of `⊤ s₁ s₂ ⋯ sₙ = ⊤` on the fly and replaces it.

### CODE REVIEW

File: src/Lean/Elab/Tactic/Do/Internal/VCGen/Solve.lean [hunk 1]
```diff
@@ -173,13 +173,19 @@ private def barePreIntro? (goal : MVarId) (α pre : Expr) : VCGenM (Option (MVar
...
   return some (← introPre (← read).backwardRules.propPreIntro goal)
 
-/-- Strategy 7: replace a `True` precondition by `⊤` via `true_le_of_top_le`, so the goal
-follows the `⊤` path instead of lifting `True` into the local context. -/
+/-- Strategy 7: replace a `True` precondition by `⊤` via `true_le_of_top_le`, or reduce a lifted
+`⊤ s₁ … sₙ` precondition (the bare top applied to the state arguments introduced by
+`le_of_forall_le`) to the bare `⊤` via a `top_apply` rewrite. Either way the goal follows the `⊤`
+path instead of lifting into the local context, and a `⊤`-precondition VC reaches `elimTopPre` in the
+bare form that `top_le_prop` can strip. -/
 private def truePre? (goal : MVarId) (pre target : Expr) : VCGenM (Option (List MVarId)) := do
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/Do/Internal/VCGen/Solve.lean]: Maybe

```suggestion
private def normalizePreToTop? (goal : MVarId) (pre target : Expr) : VCGenM (Option (List MVarId)) := do
```

File: src/Lean/Elab/Tactic/Do/Internal/VCGen/Utils.lean [hunk 2]
```diff
@@ -0,0 +1,307 @@
...
+theorem top_state_arg_intro' {σ α : Type u} [CompleteLattice α] (rhs : σ → α) :
+    (∀ s, ⊤ ⊑ rhs s) → ⊤ ⊑ rhs := by
+  intro h s
+  rw [top_fun_apply]
+  exact h s
+
+/-- Introduce an embedded proposition from the left side of a lattice relation. -/
+theorem ofProp_pre_intro' {l : Type u} [CompleteLattice l] (p : Prop) (rhs : l) :
+    (p → (⊤ : l) ⊑ rhs) → (⌜p⌝ : l) ⊑ rhs := by
+  exact (CompleteLattice.ofProp_intro p rhs).mpr
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/Do/Internal/VCGen/Utils.lean]: Having these theorems here doesn't work for bootstrapping reasons.

Also they are unused. Wait, I think you can just delete the entire file?

File: tests/bench/mvcgen/sym/test_do_logic.lean [hunk 3]
```diff
@@ -679,3 +679,53 @@ namespace InvalidSpecRejection
 @[spec] theorem trivialSpec : True := trivial
 
 end InvalidSpecRejection
+
+namespace WhileLoop
```
Comment (sgraf812) [inline tests/bench/mvcgen/sym/test_do_logic.lean]:
```suggestion
namespace TopBetaReduction
```

**Review by sgraf812 — COMMENTED** [review]
Just two small rename suggestions! (Ignore the comment on the file you already deleted)

**Comment by sgraf812** [comment]
Thanks!
